US08809525B2
6-(3-Chloro-4-fluorophenyl)-5-phenyl-1,2,4-triazin-3-amine (140 mg, 29%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.40 g, 1.59 mmol) and 3-chloro-4-fluorophenylboronic acid (0.33 g, 1.91 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.59 mmol, 0.40 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3-chloro-4-fluorophenylboronic acid | 1.91 mmol, 0.33 g | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 6-(3-Chloro-4-fluorophenyl)-5-phenyl-1,2,4-triazin-3-amine | 140 mg, 29% | ClC=1C=C(C=CC1F)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C15H10ClFN4
